US07846960B2
[4-(tert-Butyl-dimethyl-silanyloxy)-2-methyl-phenyl]-methyl-amine
The mixture of [4-(tert-butyl-dimethyl-silanyloxy)-2-methyl-phenyl]-methyl-carbamic acid benzyl ester (14.0 g, 36.0 mmol) and palladium on carbon (10 wt %, 0.5 g) in methanol (100.0 mL) is stirred under an atmosphere of hydrogen at room temperature overnight. The reaction mixture is filtered and the filtrate is concentrated under reduced pressure to a residue. The residue is purified by flash chromatography to afford the title compound as oil (7.4 g, 81%). LC-ES/MS m/e 252.3 (M+1).

reactant | [4-(tert-butyl-dimethyl-silanyloxy)-2-methyl-phenyl]-methyl-carbamic acid benzyl ester | 36.0 mmol, 14.0 g | C(C1=CC=CC=C1)OC(N(C)C1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)C)=O | C22H31NO3Si
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | methanol | 100.0 mL | CO | CH4O
product | [4-(tert-Butyl-dimethyl-silanyloxy)-2-methyl-phenyl]-methyl-amine | 7.4 g, 81% | C(C)(C)(C)[Si](OC1=CC(=C(C=C1)NC)C)(C)C | C14H25NOSi
